US05968863
5.45 g (20 mmol) of 2,2-bis(indenyl)propane was dissolved in 100 ml of ether. The thus obtained solution was cooled to -20° C. and treated with 22 ml of a 2.0M solution of n-BuLi in pentane. The resulting suspension was allowed to warm to room temperature, then it was cooled to -40° C. and treated with 12.06 g (50 mmol) of triethylstannylchloride. The organic layer was separated, evaporated, and mixed with 50 ml of toluene. 4.66 g (20 mmol) of ZrCl4 was added, and the mixture was heated to 80° C. and stirred for 6 hours. Toluene was removed and the product was washed with DME (5×50 ml). 3.98 g of pure rac-isopropylidene-bis(indenyl)zirconium dichloride was obtained. (yield 46%).

reactant | 2,2-bis(indenyl)propane | 20 mmol, 5.45 g | C1(C=CC2=CC=CC=C12)C(C)(C)C1C=CC2=CC=CC=C12 | C21H20
reactant | n-BuLi | [Li]CCCC
reactant | triethylstannylchloride | 50 mmol, 12.06 g | C(C)[Sn](CC)(CC)Cl
reactant | ZrCl4 | 20 mmol, 4.66 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | pentane | CCCCC | C5H12
product | rac-isopropylidene-bis(indenyl)zirconium dichloride | 3.98 g, yield 46% | [Cl-].[Cl-].C(C)(C)=[Zr+2](C1C=CC2=CC=CC=C12)C1C=CC2=CC=CC=C12 | InChI=1S/2C9H7.C3H6.2ClH.Zr/c2*1-2-5-9-7-3-6-8(9)4-1;1-3-2;;;/h2*1-7H;1-2H3;2*1H;/q;;;;;+2/p-2
